US05629325
9a. 5-(1-Decynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine (544 mg, 2.00 mmol), bis(triphenylphosphine)palladium(II) chloride (28 mg, 0.038 mmol) and copper (I) iodide (5 mg, 0.038 mmol) in CH2Cl2 (3.0 mL) and NEt3 (1.0 mL) was added 1-decyne (0.553 mL, 3.00 mmol). The mixture was refluxed overnight then cooled to room temperature. Water (2 mL) was added, and solid sodium bicarbonate was added until the aqueous layer was saturated. The mixture was extracted with EtOAc, which was dried over MgSO4, filtered and concentrated. The residue was chromatographed on a silica gel column, eluting with NH4OH/MeOH/EtOAc 0:1:9 and 1:10:90 to afford an oil (543 mg, 85%). MS (CI/NH3) m/z 329 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ0.90 (t, J=6.9 Hz, 3H), 1.23-2.10 (m, 14H), 2.25-2.41 (m, 1H), 2.41 (t, J=7.3 Hz, 2H), 2.50 (s, 3H), 2.60-2.75 (m, 1H), 3.08-3.21 (m, 1H),, 3.89-4.06 (m, 2H), 7.19 (s, 1H), 8.15-8.28 (m, 2H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine | 2.00 mmol, 544 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | 1-decyne | 3.00 mmol, 0.553 mL | C#CCCCCCCCC | C10H18
reactant | Water | 2 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 1.0 mL | CCN(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.038 mmol, 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.038 mmol, 5 mg | [Cu]I
product | 5-(1-Decynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 543 mg, 85% | C(#CCCCCCCCC)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C21H32N2O
